US07276516B2
Add a 2 ml CH2Cl2 solution of Tetrahydro-pyran-4-ylamine (62 mg, 0.0610 mmol, 1.1 eq) and triethylamine (365 mg, 3.6 mmol, 6.5 eq) to a 2 ml CH2Cl2 solution of 4-[3-(3,3-Difluoro-cyclopentyl)-indole-1-sulfonyl]-benzoic acid. Add benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (245 mg, 0.555 mmol, 1.0 eq) and stir reaction at room temperature for 18 hours. Remove volatiles on rotovap and purify by silica gel chromatography, followed by SCX ionic chromatography to give 4-[3-(3,3-Difluoro-cyclopentyl)-indole-1-sulfonyl]-N-(tetrahydro-pyran-4-yl)-benzamide (240 mg, 89% yield). Mass Spectrum (m/e): 489.71 (MH+).

reactant | Tetrahydro-pyran-4-ylamine | 0.0610 mmol, 62 mg, 1.1 eq | O1CCC(CC1)N | C5H11NO
reactant | triethylamine | 3.6 mmol, 365 mg, 6.5 eq | C(C)N(CC)CC | C6H15N
reactant | 4-[3-(3,3-Difluoro-cyclopentyl)-indole-1-sulfonyl]-benzoic acid | FC1(CC(CC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1)F | C20H17F2NO4S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.555 mmol, 245 mg, 1.0 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(3,3-Difluoro-cyclopentyl)-indole-1-sulfonyl]-N-(tetrahydro-pyran-4-yl)-benzamide | 240 mg, 89% yield | FC1(CC(CC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)NC2CCOCC2)C=C1)F | C25H26F2N2O4S
